US05641778
A suspension of 4-hydroxy-2-(4-methoxybutoxy)-benzoic acid methyl ester (2.0 g), 2-chloroethylmorpholine (11.8 g) and caesium carbonate (12.8 g) in acetone (30 ml) is stirred under reflux for 2 hours. Filtration and purification by FC (80 g of silica gel, eluant F and ethyl acetate-conc. ammonia 10:0.1) yield 2-(4-methoxy butoxy)-4-(2-morpholin-4-ylethoxy)-benzoic acid methyl ester (2.96 g), Rf (N)=0.73, in the form of a pale-yellow oil.

reactant | 4-hydroxy-2-(4-methoxybutoxy)-benzoic acid methyl ester | 2.0 g | COC(C1=C(C=C(C=C1)O)OCCCCOC)=O | C13H18O5
reactant | 2-chloroethylmorpholine | 11.8 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | caesium carbonate | 12.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(4-methoxy butoxy)-4-(2-morpholin-4-ylethoxy)-benzoic acid methyl ester | 2.96 g | COC(C1=C(C=C(C=C1)OCCN1CCOCC1)OCCCCOC)=O | C19H29NO6
